US04898946
2,2,6,6-tetramethyl-piperidin-4ol (0.5 g, 3.18 mmol), PdCl2 (20 mg, 0.11 mmol) and di-allyl carbonate (5 ml, 36 mmol) are charged, under inert atmosphere, into a 10 ml-flask equipped with a reflux condenser. The reaction mixture is then heated to 110° C. under stirring for about 6 hours. Gas-chromatographic analysis shows that the reaction afforded the desired 1-allyl-2,2,6,6-tetramethyl-piperidin-4ol in 85% yield (calculated on the starting piperidinol) and >98% selectivity.

reactant | 2,2,6,6-tetramethyl-piperidin-4ol | 3.18 mmol, 0.5 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | di-allyl carbonate | 36 mmol, 5 ml | C(OCC=C)(OCC=C)=O | C7H10O3
catalyst | PdCl2 | 0.11 mmol, 20 mg | Cl[Pd]Cl
product | 1-allyl-2,2,6,6-tetramethyl-piperidin-4ol | 85% yield | C(C=C)N1C(CC(CC1(C)C)O)(C)C | C12H23NO
